***Potentiometer***

.SUBCKT pot 1 2 tap PARAMS: R = 10k g = 1
	R1 1 tap {R*(1-g)+1n}
	R2 tap 2 {R*g+1n}
.ENDS

.SUBCKT pot_log 1 2 tap PARAMS: R = 10k g = 1
	R1 1 tap {R*(1-g)+1n}
	R2 tap 2 {R*g+1n}
	R3 tap 2 {R*0.15}
.ENDS

.SUBCKT pot_logIdeal 1 2 tap PARAMS: R = 10k g = 1 ym = 0.1
	.PARAM b = {pow((1/ym - 1),2)}
	.PARAM g1 = {pow(b,g)/(b-1)-1/(b-1)}
	R1 1 tap {R*(1-g1)+1n}
	R2 tap 2 {R*g1+1n}
.ENDS
