*Sallen-Key Filters

.INCLUDE ./UA741-simplified.lib
.INCLUDE ./Potentiometer.lib

***Band Pass***
.SUBCKT sk_bp in out gnd PARAMS: C = 1uf w0 = 1k Q = 0.707
	R1 in 2 {1/C/w0}
	R2 2 out {1/C/w0}
	C1 2 3 {C}
	C2 2 gnd {C}
	R3 3 gnd {2/C/w0}
	XOA 5 3 out gnd UA741
	R4 5 gnd 10k
	R5 out 5 {(2-1/Q)*10k}
.ENDS

***High Pass***
.SUBCKT sk_lp in out gnd PARAMS: C = 1uf w0 = 1k Q = 0.707
	R1 in 2 {1/C/w0}
	R2 2 3 {1/C/w0}
	C1 3 gnd {C}
	C2 2 out {C}
	XOA 5 3 out gnd UA741
	R3 5 gnd 10k
	R4 out 5 {(2-1/Q)*10k}
.ENDS

***Low Pass***
.SUBCKT sk_hp in out gnd PARAMS: C = 1uf w0 = 1k Q = 0.707
	R1 3 gnd {1/C/w0}
	R2 2 out {1/C/w0}
	C1 in 2 {C}
	C2 2 3 {C}
	XOA 5 3 out gnd UA741
	R4 5 gnd 10k
	R5 out 5 {(2-1/Q)*10k}
.ENDS

***Variable Low Pass***
.SUBCKT sk_lp_var in out gnd PARAMS: C = 1uf w0 = 1k Q = 0.707 f = 1 Rvar = 25k Rq = 25k Qv = 1
	R1 in 2 {1/C/w0}
	XR2 2 3 3 pot PARAMS: R = {Rvar} g = {f}
	R3 3 4 {1/C/w0}
	XR4 4 5 5 pot PARAMS: R = {Rvar} g = {f}
	C1 4 gnd {C}
	C2 3 out {C}
	XOA 6 5 out gnd UA741
	R5 6 gnd 10k
	XR6 out 7 7 pot PARAMS: g = {Qv} R = {Rq}
	R7 7 6 {(2-1/Q)*10k}
.ENDS