*Simple UA741 Op Amp

.SUBCKT UA741 inv non out gnd

	rIn non inv 1g
	e1 op1 gnd non inv 100k
	r2 op1 op2 1k
	c3 op2 gnd 1.59n
	eBuff op3 gnd op2 gnd 1
	rOut op3 out 100

.ENDS